US07238808B2
4-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide
The title compound was prepared from 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine (example C.8) (167 mg, 0.51 mmol) and 4-bromo-benzenesulfonamide (121 mg, 0.51 mmol) according to general procedure II. Obtained as a yellow solid (140 mg, 57%). MS (ISP) 483.4 [(M+H)+]; mp 259–261° C.

reactant | 7-cyclopropyl-5-(3,4-dichloro-phenyl)-3-ethynyl-pyrazolo[1,5-a]pyrimidine | 0.51 mmol, 167 mg | C1(CC1)C1=CC(=NC=2N1N=CC2C#C)C2=CC(=C(C=C2)Cl)Cl | C17H11Cl2N3
reactant | 4-bromo-benzenesulfonamide | 0.51 mmol, 121 mg | BrC1=CC=C(C=C1)S(=O)(=O)N | C6H6BrNO2S
product | 4-[7-Cyclopropyl-5-(3,4-dichloro-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-benzenesulfonamide | C1(CC1)C1=CC(=NC=2N1N=CC2C#CC2=CC=C(C=C2)S(=O)(=O)N)C2=CC(=C(C=C2)Cl)Cl | C23H16Cl2N4O2S
